US09023847B2
19. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(2-aminoethyl)pyridine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 364 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.24 (1H, s) 8.41-8.47 (1H, m) 8.24 (1H, t, J=5.56 Hz) 8.02 (1H, d, J=5.37 Hz) 7.77 (1H, d, J=5.47 Hz) 7.61-7.70 (1H, m) 7.46 (1H, d, J=5.37 Hz) 7.31 (1H, dd, J=3.32, 2.44 Hz) 7.25 (1H, d, J=7.81 Hz) 7.13-7.20 (1H, m) 6.79 (1H, d, J=5.37 Hz) 6.44 (1H, dd, J=3.42, 1.85 Hz) 3.53-3.68 (2H, m) 2.98 (2H, t, J=7.37 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(2-aminoethyl)pyridine | NCCC1=NC=CC=C1 | C7H10N2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | N1=C(C=CC=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C19H17N5OS
